US05972943
Ethyl 16-hydroxyhexadecanoate
To a solution of 5.0 g of 16-hydroxyhexadecanoic acid in 100 ml of ethanol was added 0.2 ml of sulfuric acid and the mixture was heated under reflux for one hour. The reaction solution was distilled off under reduced pressure. The residue was diluted with ethyl acetate and washed successively with water, a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and then distilled under reduced pressure to afford the title compound.

reactant | 16-hydroxyhexadecanoic acid | 5.0 g | OCCCCCCCCCCCCCCCC(=O)O | C16H32O3
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 16-hydroxyhexadecanoate | OCCCCCCCCCCCCCCCC(=O)OCC | C18H36O3
